US04333928
A solution of 7.8 g of 17β-hydroxy-16α-methyl-4,9(10)-estradien-3-one in 25 ml of pyridine and 8 ml of acetic anhydride is stirred for 6 hours at 50° C. under argon. After cooling the mixture is poured into saturated NaHCO3 solution and extracted with ethyl acetate. The ethyl acetate extracts are washed in succession with water, 2 N hydrochloric acid, and saturated NaCl solution, dried over sodium sulfate, and concentrated. Crystallization from ether yields 6.6 g of 17β-acetoxy-16α-methyl-4,9(10)-estradien-3-one, m.p. 124°-126° C.

reactant | 17β-hydroxy-16α-methyl-4,9(10)-estradien-3-one | 7.8 g | O[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1CC2)=O | C19H26O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 17β-acetoxy-16α-methyl-4,9(10)-estradien-3-one | 6.6 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1CC2)=O | C21H28O3
